US06235750B1
A. 2-(2,5-Dimethylpyrrolyl)-6-[4-(pyrid-3-yl)-phenyl]-pyridine
To a 100 mL round-bottomed flask equipped with condenser and N2 inlet were added 271 mg (2.20 mmol) 3-pyridylboronic acid (Rec. Trav. Chim., 93, 21 (1974)), 720 mg (2.20 mmol) 2-(2,5-dimethylpyrrolyl)-6-(4-bromophenyl)-pyridine, 933 mg (8.81 mmol) sodium carbonate, 128 mg (0.110 mmol) tetrakistriphenylphosphine palladium, 9 mL ethanol, and 1 mL water. The mixture was refluxed 20 hours 100 mg 3-pyridiylboronic acid added, and refluxing continued for 2 hours. The reaction was then cooled, poured into water and extracted into ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, and evaporated. The residue was chromatographed on silica gel using methanol/methylene chloride as eluant to afford the product as an oil, 350 mg (49%).

reactant | 3-pyridylboronic acid | 2.20 mmol, 271 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | 2-(2,5-dimethylpyrrolyl)-6-(4-bromophenyl)-pyridine | 2.20 mmol, 720 mg | CC=1NC(=CC1C1=NC(=CC=C1)C1=CC=C(C=C1)Br)C | C17H15BrN2
reactant | sodium carbonate | 8.81 mmol, 933 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 9 mL | C(C)O | C2H6O
solvent | water | O | H2O
solvent | water | 1 mL | O | H2O
product | 2-(2,5-Dimethylpyrrolyl)-6-[4-(pyrid-3-yl)-phenyl]-pyridine | CC=1NC(=CC1C1=NC(=CC=C1)C1=CC=C(C=C1)C=1C=NC=CC1)C | C22H19N3
